US07019136B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.29 g, 1.9 mmol) is added to 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione (0.40 g, 1.9 mmol)) and (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid (0.39 g, 1.78 mmol) in methanol and water and the mixture is stirred at ambient temperature for 2 hours. The methanol is evaporated and the resultant solid collected by filtration and recrystalised from ethylacetate/methanol. The resulting solid is heated in a sealed tube (100° C., 8 h) with 40% aqueous dimethylamine. The mixture is evaporated and extracted with ethylacetate. The ethylacetate solution is then washed with water and brine, dried over sodium sulphate, filtered and concentrated. Further purification by flash silica column chromatography (eluant: ethylacetate/methanol) yields 8-(1-dimethylamino-6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione, MH+ 467.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.9 mmol, 0.29 g | Cl.CN(CCCN=C=NCC)C
reactant | 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione | 1.9 mmol, 0.40 g | NC=1C(N(C(N(C1N)CC(C)C)=O)C)=O | C9H16N4O2
reactant | (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid | 1.78 mmol, 0.39 g | ClC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C13H12ClNO4
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 8-(1-dimethylamino-6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione | CN(C1=NC=C(C2=CC(=C(C=C12)OC)OC)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC(C)C)C | C24H30N6O4
